US08076329B2
Following the procedure described in example 1§E, but starting from 1-(3-chloropropoxy)-4-iodobenzene (3 g), potassium carbonate (4.15 g) and piperidine (1.7 g) in N,N-dimethylformamide (30 mL) affords 3.49 g of 1-[3-(4-iodophenoxy)propyl]piperidine used without further purification.

reactant | 1-(3-chloropropoxy)-4-iodobenzene | 3 g | ClCCCOC1=CC=C(C=C1)I | C9H10ClIO
reactant | potassium carbonate | 4.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperidine | 1.7 g | N1CCCCC1 | C5H11N
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 1-[3-(4-iodophenoxy)propyl]piperidine | 3.49 g | IC1=CC=C(OCCCN2CCCCC2)C=C1 | C14H20INO
